US08440701B2
1-(2-Chloro-6-methyl-pyridine-4-carbonyl)-3-(3-fluoro-5-methoxy-phenyl)thiourea (D13)
2-Chloro-6-methyl-4-pyridinecarbonyl chloride (44.087 g, 0.232 mol) in acetone (1 l) was treated with ammonium isothiocyanate (21.192 g, 0.278 mol) and the mixture was stirred for 1 hour at room temperature. Subsequently, a solution of 3-fluoro-5-methoxybenzenamine (36.02 g, 0.255 mol) in acetone (200 ml) was added dropwise and the reaction mixture was stirred for 4 hours at room temperature. The solvent was evaporated in vacuo and the residue was dissolved in CH2Cl2 (1 l). This organic solution was washed (H2O), dried (MgSO4), filtered and the solvent was evaporated in vacuo to yield a brown solid. The brown solid was triturated in acetonitrile (0.8 l), stirred overnight and the solid was filtered off and dried (vacuum oven, 4 hours at 65° C.). Yield: 59.69 g of intermediate D13 (73%).

reactant | 2-Chloro-6-methyl-4-pyridinecarbonyl chloride | 0.232 mol, 44.087 g | ClC1=NC(=CC(=C1)C(=O)Cl)C | C7H5Cl2NO
reactant | ammonium isothiocyanate | 0.278 mol, 21.192 g | [N-]=C=S.[NH4+]
reactant | 3-fluoro-5-methoxybenzenamine | 0.255 mol, 36.02 g | FC=1C=C(C=C(C1)OC)N | C7H8FNO
solvent | acetone | 1 l | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(2-Chloro-6-methyl-pyridine-4-carbonyl)-3-(3-fluoro-5-methoxy-phenyl)thiourea | ClC1=NC(=CC(=C1)C(=O)NC(=S)NC1=CC(=CC(=C1)OC)F)C | C15H13ClFN3O2S
